data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]C(=O)C(F)(F)F.CCC(CCCNC(=O)CCl)(CCC1=CC2=C(N1)C=CC=C2)C=[O:10].O>>[H:20][O+:10]=CC(CC)(CCCNC(=O)CCl)CCC1=CC2=C(N1)C=CC=C2.C(=O)(C(F)(F)F)[O-:21].O 10=20;20,21=21
CC[CH:20]([NH+:21](C)C)[OH:10]>>CC[CH:20]=[OH+:10].C[NH:21]C 10=20;20,21=21
[H:20][CH:21](CCC)[C:22](=[N+:23]1CCCC1C2=NN=NN2)C3=C(C=CC(=C3)Br)O.[OH2:10].C1=CC(=CC=C1C=O)[N+](=O)[O-].C(=O)(C(F)(F)F)[O-]>>[H:20][OH2+:10].CCC[CH:21]=[C:22](C1=C(C=CC(=C1)Br)O)[N:23]2CCCC2C3=NN=NN3.C1=CC(=CC=C1C=O)[N+](=O)[O-].C(=O)(C(F)(F)F)[O-] 10=20;22,23=23;20,21=21,22
[H:20][C:21]1(C=CC=C[C+:22]1Br)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[C:22](C=C1)Br)S(=O)(=O)O 10=20;20,21=21,22
[H:20][O:21]CC.C[C:11](=[CH:10]CC1CCCCC1=O)[O-:12]>>[H:20][CH:10](CC1CCCCC1=O)[C:11](=[O:12])C.CC[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][OH+:21]C(CBr)C(C)(C)C.[OH2:10]>>[H:20][OH2+:10].CC(C)(C)C(CBr)[OH:21] 10=20;20,21=21
CC(C)(C(=[N+]=[N-])[P:20](=O)(OC)OC)[O-:10]>>CC1(C(=[N+]=[N-])[P-:20](=O)([O:10]1)(OC)OC)C 10=20,
[Li:11][CH3:10].CC1CC(C=C(C1)O[Si:20](C)(C)C)CC(=C)C>>CC1CC(C=C(C1)O[Si-:20](C)(C)(C)[CH3:10])CC(=C)C.[Li+:11] 10,11=10,20
[H:20][CH:21](C(=O)CC1=CC=CC=C1)[C:22](=[O:23])N(C)C.[OH-:10]>>[H:20][OH:10].CN(C)[C:22](=[CH:21]C(=O)CC1=CC=CC=C1)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.C(CC=[O:10])CO>>[H:20][O+:10]=CCCCO.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[OH+:11][CH:10]1CC2C3CC4=C(C2(CCN3CC5CC5)C=C1O)C(=C(C=C4)OC)O>>C[OH:11].COC1=C(C2=C(CC3C4C2(CCN3CC5CC5)C=C([CH+:10]C4)O)C=C1)O 10,11=11
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C2=CC=CC=C21)C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[C:24]1=[CH:23][CH:22]=[C:21](C2=CC=CC=C12)S(=O)(=O)O 10=20;20,21=21,22;22,23=23,24
CC(C)(C)[S:20](N1CCCCC1)([O-:10])[Cl:21].CC[NH+](CC)CC>>CC(C)(C)[S:20](=[O:10])N1CCCCC1.[Cl-:21].CC[NH+](CC)CC 10=20;20,21=21
CC[N+:21](=[S:20]([O-:10])F)CC.CCF.F>>CC[N:21](CC)[S:20](=[O:10])F.CCF.F 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)O)C(C)C.[Al-]([Cl:10])(Cl)(Cl)Cl>>[H:20][Cl+:10][Al-](Cl)(Cl)Cl.CC(C)[C:21]1=[CH:22][CH:23]=[C:24](C=C1)O 10=20;20,21=21,22;22,23=23,24
C1=CC=C(C=C1)[P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)[O:21][CH2:20]C=CC4=CC=C(C=C4)Cl.[Br-:10].C(Br)(Br)Br>>C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC(=CC=C1C=C[CH2:20][Br:10])Cl.C(Br)(Br)Br 10=20;20,21=21,22
C[C:20](C)([CH2:21]P(=O)(OC)OC)[O-:10]>>C[C:20](=[O:10])C.COP(=O)([CH2-:21])OC 10=20;20,21=21
[H:20][CH:21]=[CH:22][Br:23].CC[NH-:10]>>[Br-:23].[CH:21]#[CH:22].[H:20][NH:10]CC 10=20;22,23=23;20,21=21,22
[H:20][CH:21](C)[CH:22]=[CH:23][C:24](=[O+:25][Li])OCC.[Li][N:10](C(C)C)C(C)C>>[H:20][N+:10]([Li])(C(C)C)C(C)C.[Li][O:25][C:24](=[CH:23][CH:22]=[CH:21]C)OCC 10=20;24,25=25;20,21=21,22;22,23=23,24
[Li:20]OC(=C)C.CC(=[O:10])C>>[Li-:20](OC(=C)C)[O+:10]=C(C)C 10=20,
CC[CH+:20]C.CC(C)(C)[OH:10]>>CC[CH:20](C)[OH+:10]C(C)(C)C 10=20,
CC1=[N:10]C2=C(N1)C=CC=C2.C1=CC=C(C=C1)C(=O)[CH2:20][Br:21]>>CC1=[N+:10](C2=C(N1)C=CC=C2)[CH2:20]C(=O)C3=CC=CC=C3.[Br-:21] 10=20;20,21=21
CC1=CC=C(C=C1)[S:21](=O)(=O)[N-:20][N:10]=CC2=CN(C3=CC(=CC=C32)NC(=O)OCC4C5=C(C=CC=C5)C6=CC=CC=C46)S(=O)(=O)C7=CC=C(C=C7)C.[Li][OH+]C(C)(C)C>>CC1=CC=C(C=C1)[S-:21](=O)=O.CC1=CC=C(C=C1)S(=O)(=O)N2C=C(C3=CC=C(C=C32)NC(=O)OCC4C5=C(C=CC=C5)C6=CC=CC=C46)C=[N+:10]=[N-:20].[Li][OH+]C(C)(C)C 10=20;20,21=21
[H:20][OH:21].CC=CCC(C)[O-:10]>>[H:20][O:10]C(C)CC=CC.[OH-:21] 10=20;20,21=21
[H:20][O:21]C(=CC(=O)C)CC1=CC=CC=C1.[OH-:10]>>[H:20][OH:10].CC(=O)C=C(CC1=CC=CC=C1)[O-:21] 10=20;20,21=21
[H:20][C:21]#CCC.[H:10][Na:11]>>CCC#[C-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
CC[N:10](C)CC.[CH3:20][I:21]>>CC[N+:10](C)([CH3:20])CC.[I-:21] 10=20;20,21=21
C[P+](C)(C)[CH:21]=[CH2:20].[OH-:10]>>C[P+](C)(C)[CH-:21][CH2:20][OH:10] 10=20;20,21=21
C[C:20]([OH:10])(OC)[SH+:21]C>>C[C:20](=[OH+:10])OC.C[SH:21] 10=20;20,21=21
CC1CN(C2C1CC[CH:20](C2(C#N)[O-:10])[Br:21])S(=O)(=O)C3=CC=C(C=C3)C.C[OH+][K]>>CC1CN(C2C1CC[CH:20]3C2([O:10]3)C#N)S(=O)(=O)C4=CC=C(C=C4)C.[Br-:21].C[OH+][K] 10=20;20,21=21
COC1=CC=C(C=C1)[CH2:20][Cl:21].C1CC[NH:10]CC1>>COC1=CC=C(C=C1)[CH2:20][NH+:10]2CCCCC2.[Cl-:21] 10=20;20,21=21
CC1[C:20]([Br+:21]1)(C)C.[OH2:10]>>CC([C:20](C)(C)[OH2+:10])[Br:21] 10=20;20,21=21
CC[C:10](CCC1CCCCC1)(CC(C)C)[OH2+:11]>>CC[C+:10](CCC1CCCCC1)CC(C)C.[OH2:11] 10,11=11
CC(C)(C(=O)C1CCCC2=C([C:20]1=[OH+:21])C=CC=C2)[O-:10].C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3>>CC1(C(=O)C2CCCC3=C([C:20]2([O:10]1)[OH:21])C=CC=C3)C.C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3 10=20;20,21=21
C(=C([N+](=O)[O-])[N+](=O)[O-])(N)[NH2+:21][C:20](=O)[O-:10].C([N+](=O)[O-])[N+](=O)[O-].C(=O)=O.OS(=O)(=O)O>>C(=C([N+](=O)[O-])[N+](=O)[O-])(N)[NH2:21].[C:20](=O)=[O:10].C([N+](=O)[O-])[N+](=O)[O-].C(=O)=O.OS(=O)(=O)O 10=20;20,21=21
CCO[C:20](C=C)([O-:10])[Cl:21]>>CCO[C:20](=[O:10])C=C.[Cl-:21] 10=20;20,21=21
[CH3:20][I:21].C1=CC=C(C=C1)C[NH2:10]>>[CH3:20][NH2+:10]CC1=CC=CC=C1.[I-:21] 10=20;20,21=21
CCC[CH:10](C(C)(C=NC(C)(C)C)[Si](CC)(CC)CC)[OH2+:11].C(=O)(C(F)(F)F)[O-].O>>CCC[CH+:10]C(C)(C=NC(C)(C)C)[Si](CC)(CC)CC.[OH2:11].C(=O)(C(F)(F)F)[O-].O 10,11=11
